US04735959
Ethyl 3-{4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-phenyl}-propionate
An amount of 0.60 gm (1.34 m mol) of ethyl 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-cinnamate was hydrogenated in 10 ml of ethanol on 0.20 gm of 10% palladium/charcoal at ambient temperature under 5 bar of hydrogen. The mixture was filtered and concentrated by evaporation in vacuo.

reactant | ethyl 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-cinnamate | 0.60 gm | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C=CC(=O)OCC)C=C1)C(=O)N | C28H36N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 0.20 gm | [Pd] | Pd
product | Ethyl 3-{4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-phenyl}-propionate | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C=C1)CCC(=O)OCC)C(=O)N | C28H38N2O3
